US09062008B2
Step 3: 3-Amino-6-(4-isopropylsulfonylphenyl)-N-methoxy-N-methyl-pyrazine-2-carboxamide
3-Amino-6-(4-isopropylsulfonylphenyl)pyrazine-2-carboxylic acid (10 g, 31.12 mmol) was dissolved in THF (80 mL) and cooled to 0° C. N-methoxymethanamine hydrochloride (3.642 g, 37.34 mmol), 1-hydroxybenzotriazole hydrate (5.242 g, 34.23 mmol), DIPEA (8.044 g, 10.84 mL, 62.24 mmol) and 3-(ethyliminomethyleneamino)-N,N-dimethyl-propan-1-amine (5.314 g, 34.23 mmol) was added and the reaction mixture allowed to warm to ambient temperature over 15 hours. The reaction mixture was concentrated in vacuo and the residue dissolved in EtOAc. The organic layer was washed water (×2), saturated aqueous NaHCO3 (×2) and brine (×1). The organic layer was dried (MgSO4), filtered and concentrated in vacuo and the residue purified by column chromatography (eluting with 30% EtOAc/petroleum ether) to give the sub-title compound as an off-white solid (8.8 g, 78% Yield). 1H NMR (400.0 MHz, DMSO) δ 1.18 (d, 6H), 3.42 (s, 3H), 3.44 (sept, 1H), 3.67 (s, 3H), 6.95 (br s, 2H), 7.90 (d, 2H), 8.22 (d, 2H) and 8.82 (s, 1H) ppm; (ES+) 366.1.

reactant | 3-Amino-6-(4-isopropylsulfonylphenyl)pyrazine-2-carboxylic acid | 31.12 mmol, 10 g | NC=1C(=NC(=CN1)C1=CC=C(C=C1)S(=O)(=O)C(C)C)C(=O)O | C14H15N3O4S
reactant | N-methoxymethanamine hydrochloride | 37.34 mmol, 3.642 g | Cl.CONC
reactant | 1-hydroxybenzotriazole hydrate | 34.23 mmol, 5.242 g | O.ON1N=NC2=C1C=CC=C2
reactant | DIPEA | 62.24 mmol, 10.84 mL, 8.044 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-(ethyliminomethyleneamino)-N,N-dimethyl-propan-1-amine | 34.23 mmol, 5.314 g | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 3-Amino-6-(4-isopropylsulfonylphenyl)-N-methoxy-N-methyl-pyrazine-2-carboxamide | 8.8 g, 78% Yield | NC=1C(=NC(=CN1)C1=CC=C(C=C1)S(=O)(=O)C(C)C)C(=O)N(C)OC | C16H20N4O4S
